US07511067B2
c) 4-[2-(1,1-dimethyl-3-[1,2,4]triazol-1-yl-propylamino)-1-hydroxy-ethyl]-2-hydroxymethyl-phenol
The debenzylation of 6 g of 1-(4-benzyloxy-3-hydroxymethyl-phenyl)-2-(1,1-dimethyl-3-[1,2,4]triazol-1-yl-propylamino)-ethanol is carried out hydrogenolytically with 1 g of palladium on charcoal (5%) in 100 mL methanol. After the catalyst has been removed by suction filtering and the filtrate has been evaporated down the residue is dissolved in 20 mL 90% ethanol, combined with sulphuric acid and seeded. The precipitated product is filtered off and washed. Yield: 3 g (55%, hemisulphate); m.p.=177-180° C.

reactant | 1-(4-benzyloxy-3-hydroxymethyl-phenyl)-2-(1,1-dimethyl-3-[1,2,4]triazol-1-yl-propylamino)-ethanol | 6 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C(CNC(CCN1N=CN=C1)(C)C)O)CO | C23H30N4O3
catalyst | palladium on charcoal | 1 g | [Pd] | Pd
solvent | methanol | 100 mL | CO | CH4O
product | 4-[2-(1,1-dimethyl-3-[1,2,4]triazol-1-yl-propylamino)-1-hydroxy-ethyl]-2-hydroxymethyl-phenol | CC(CCN1N=CN=C1)(C)NCC(O)C1=CC(=C(C=C1)O)CO | C16H24N4O3
